US09029295B2
E-Ethyl 2-(2-methylhydrazono)acetate (Compound (XVI-1))
47% ethyl glyoxylate in toluene (polymer type) (467.84 g, 2.15 mol) was dissolved in THF (620 ml), to the solution was slowly added methylhydrazine (103 g, 1.02 eq) under ice-cooled. After the addition was complete, the mixture was stirred at 0° C. for 30 minutes and at room temperature for 16 hours. The reaction solution was concentrated under reduced pressure. The residue was dissolved in toluene (400 ml), and concentrated under reduced pressure. The resulting solid was washed with tert-butyl methyl ether (200 ml), and allowed to stand at 0° C. for 30 minutes. Then, the mixture was filtered, and washed with cooled tert-butyl methyl ether (100 ml) to give 223.91 g of Compound (XVI-1) (yield: 78.8%) as solid.

reactant | ethyl glyoxylate | C(C=O)(=O)OCC | C4H6O3
reactant | toluene | 2.15 mol, 467.84 g | C1(=CC=CC=C1)C | C7H8
reactant | methylhydrazine | 103 g, 1.02 eq | CNN | CH6N2
solvent | THF | 620 ml | C1CCOC1 | C4H8O
product | E-Ethyl 2-(2-methylhydrazono)acetate | 223.91 g, yield: 78.8% | CN\N=C\C(=O)OCC | C5H10N2O2
